US04255429
The mixture of 215 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline, 192.3 g of 1-(4-piperidinyl)-pyrrolidine-2,5-dione and 5,600 ml of isoamyl alcohol is stirred and refluxed for 22 hours. It is cooled to 20°, filtered and the residue washed once with 250 ml of cold ethanol and twice with 250 ml of diethyl ether each. The solids are suspended in 6000 ml of ethanol and 300 ml of water, the suspension heated to reflux, immediately cooled to 20° and filtered. The residue is washed with 300 ml of cold ethanol and 200 ml of diethyl ether, to yield the 1-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-pyrrolidin-2,5-dione hydrochloride melting at 237° with decomposition.

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 215 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 1-(4-piperidinyl)-pyrrolidine-2,5-dione | 192.3 g | N1CCC(CC1)N1C(CCC1=O)=O | C9H14N2O2
solvent | isoamyl alcohol | 5,600 ml | C(CC(C)C)O | C5H12O
product | 1-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-pyrrolidin-2,5-dione hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N1C(CCC1=O)=O | InChI=1S/C19H23N5O4.ClH/c1-27-14-9-12-13(10-15(14)28-2)21-19(22-18(12)20)23-7-5-11(6-8-23)24-16(25)3-4-17(24)26;/h9-11H,3-8H2,1-2H3,(H2,20,21,22);1H
